US04576933
2-(N,N-Dimethylcarbamoyl)-3-octadecyl-1-tritylglycerol
3-Octadecyl-1-tritylglycerol (2.6 g, 4.43 mmol) and 0.7 g (8.86 mmol) of pyridine were dissolved in 9 ml of dichloromethane, and 0.69 g of phenyl chlorocarbonate was added dropwise. The solution was stirred at room temperature for 30 minutes, and then stirred with 25 ml of chloroform and 25 ml of water. The aqueous layer was discarded and the organic layer was washed with 1% sodium hydrogen carbonate solution, dried over sodium sulfate and concentrated to dryness under reduced pressure. The residue was dissolved in 13 ml of dichloromethane, and dimethylamine gas was bubbled into the solution. The solution was concentrated to dryness under reduced pressure and the residue was purified by column chromatography on silica gel (20 g) using n-hexane-ethyl acetate (9:1) as the eluent to give 2.92 g (100%) of colorless needles, melting at 57.5°-58.0° C.

reactant | 3-Octadecyl-1-tritylglycerol | 4.43 mmol, 2.6 g | C(CCCCCCCCCCCCCCCCC)OCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C40H58O3
reactant | pyridine | 8.86 mmol, 0.7 g | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 0.69 g | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 2-(N,N-Dimethylcarbamoyl)-3-octadecyl-1-tritylglycerol | 2.92 g, 100% | CN(C(=O)OC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCCCCCCCCCCCCCCCCCC)C | C43H63NO4
